US04849444
(b) 5-(4-Chloro-3-chlorosulfonylphenyl)-5-hydroxy-1-methyl-2-pyrrolidone
A solution of 9.9 g of sodium nitrite in 60 ml of water is metered into, below the surface of, a solution of 30.5 g of 5-(3-amino-4-chlorophenyl)-5-hydroxy-1-methyl-2-pyrrolidone in 300 ml of half-concentrated hydrochloric acid at at 0° to 5° C. The reaction mixture is stirred while cooling for a further 10 min, and then a mixture of 15.2 g of copper(II)chloride dihydrate and 450 ml of a saturated solution of sulfur dioxide in glacial acetic acid is added in portions. The mixture is stirred for a further 30 min, and then the sulfonyl chloride is precipitated by addition of water, and the crystals are filtered off. Melting point 137°-139° C.

reactant | sodium nitrite | 9.9 g | N(=O)[O-].[Na+]
reactant | 5-(3-amino-4-chlorophenyl)-5-hydroxy-1-methyl-2-pyrrolidone | 30.5 g | NC=1C=C(C=CC1Cl)C1(CCC(N1C)=O)O | C11H13ClN2O2
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | water | 60 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | copper(II)chloride dihydrate | 15.2 g | O.O.[Cu](Cl)Cl
product | 5-(4-Chloro-3-chlorosulfonylphenyl)-5-hydroxy-1-methyl-2-pyrrolidone | ClC1=C(C=C(C=C1)C1(CCC(N1C)=O)O)S(=O)(=O)Cl | C11H11Cl2NO4S
